US04666504
4-Carboxy-1-(4-methylphenyl)-5-pyrazolecarboxamide.
To 10 g. of ethyl 5-cyano-1-(4-methylphenyl)-4 pyrazolecarboxylate was added 5.6 g. of potassium hydroxide and 200 ml. of water followed by enough water to cause solution. The mixture was stirred under reflux for 8 hours and allowed to stand for 3 days. It was then poured over ice, made acid and filtered. The solids from the filtration were heated in 100 ml. of ethyl acetate, and the undissolved solid was separated, dried and identified as 4.25 g. of the desired product, m.p. 260° dec. The product was identified by nuclear magnetic resonance analysis in DMSOd6. δ2.36 (s,3), methyl; 7.32 (d,2), aromatic; 7.45 (d,2), aromatic; 8.01 (s,1), pyrazole; 7.91 (s,1), carboxamide; 8.33 (s,1), carboxamide.

reactant | ethyl 5-cyano-1-(4-methylphenyl)-4 pyrazolecarboxylate | C(#N)C1=C(C=NN1C1=CC=C(C=C1)C)C(=O)OCC | C14H13N3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 4-Carboxy-1-(4-methylphenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC=C(C=C1)C | C12H11N3O3
